US07713994B2
6-Furan-3-yl-7-methoxy-4-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione
A mixture of 6-Bromo-7-methoxy-4-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione (241 mg, 0.51 mmole), N,N-dimethylformamide (2 mL), furan-3-boronic acid (143 mg, 1.28 mmole), tris(dibenzylideneacetone)dipalladium(0)-chloroform adduct (64 mg, 0.062 mmole), tri(t-butyl)phosphine (25 mg, 0.124 mmole) and cesium carbonate (334 mg, 1.02 mmole) is stirred and heated at 110° C. for one hour, cooled in the refrigerator. The reaction mixture is evaporated to dryness, taken up in 5% methanol in chlororform and passed through a short pad of Florisil eluting with 5% methanol in chloroform. The eluate is evaporated in vacuo and treated with acetonitrile, filtered and dried to give a brown solid 161 mg (68%), mp 198-220° C.; MS (ESI): m/z 459.2, 461.2 (M+H).

reactant | 6-Bromo-7-methoxy-4-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione | 0.51 mmole, 241 mg | BrC=1C=C2C(C(NC(C2=CC1OC)=O)=O)=CNC1=CC=C(C=C1)N1CCN(CC1)C | C22H23BrN4O3
reactant | furan-3-boronic acid | 1.28 mmole, 143 mg | O1C=C(C=C1)B(O)O | C4H5BO3
reactant | tri(t-butyl)phosphine | 0.124 mmole, 25 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | cesium carbonate | 1.02 mmole, 334 mg | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0)-chloroform adduct | 0.062 mmole, 64 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 6-Furan-3-yl-7-methoxy-4-{[4-(4-methyl-piperazin-1-yl)-phenylamino]-methylene}-4H-isoquinoline-1,3-dione | 161 mg, 68% | O1C=C(C=C1)C=1C=C2C(C(NC(C2=CC1OC)=O)=O)=CNC1=CC=C(C=C1)N1CCN(CC1)C | C26H26N4O4
